US05338739
5-(4-Hydroxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone
To a suspension of pentane washed sodium hydride (80% oil dispersion, 5.18 g) in dry dimethylformamide (275 ml) was added 5-(4-methoxyphenyl)pyrrolidin-2-one (16.0 g) followed by N-(2-chloroethyl)morpholine hydrochloride (15.5 g) and potassium iodide (0.05 g) at ambient temperature. The solution was heated at 110° C. for 1.5 hrs, cooled to ambient temperature, and quenched with saturated aqueous ammonium chloride solution. The mixture was concentrated in a Kugelrohr apparatus. The residue was diluted with water and ethyl acetate, the layers were separated, and the aqueous phase was extracted with ethyl acetate (4 times). The combined organic extracts were washed with brine, dried over anhydrous potassium carbonate, filtered, and the filtrate was concentrated. The residue was purified by preparative high performance liquid chromatography (silica gel, 1% triethylamine/1% methanol/ethyl acetate). The appropriate fractions were collected and concentrated to afford 18.2 g (72.8%) of 5-(4-methoxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone. 5-(4-Methoxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone (8.82 g) was dissolved in 48% hydrobromic acid (50 ml) and warmed at 100° C. for 5 hrs. The reaction mixture was cooled to ambient temperature, neutralized with saturated sodium bicarbonate solution and extracted with dichloromethane (6 times). The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. Dilution of the residue with dichloromethane and ether gave the analytical sample (1.99 g), mp 143°-144° C. The mother liquor was concentrated to give a total of 6.20 g (74.0%) of product.

reactant | 5-(4-Methoxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone | 8.82 g | COC1=CC=C(C=C1)C1CCC(N1CCN1CCOCC1)=O | C17H24N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | 50 ml | Br | BrH
product | 5-(4-Hydroxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone | 6.20 g, 74.0% | OC1=CC=C(C=C1)C1CCC(N1CCN1CCOCC1)=O | C16H22N2O3
